US08202863B2
A mixture of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (100 mg, 0.5 mmol, prepared according to the general procedure described in Example 2, steps 1 and 2), 1-hydroxybenzotriazole (76.1 mg, 0.56 mmol) and PS-DCC (518 mg, 1.28 mmol/g, 0.66 mmol) in 8 mL of DMF is shaken at room temperature for 15 minutes, and aniline (31 mg, 0.33 mmol) is added. After shaking at room temperature for 18 hours, PS-trisamine (400 mg, 3.75 mmol/g, 1.5 mmol) is added and the mixture is continually shaken at room temperature for 18 hours. The solid is filtered and washed with DCM. The filtrate is concentrated to yield 2-pyridin-2-yl-pyrimidine-5-carboxylic acid phenylamide (21 mg, 23%) as a solid. MS: 277 (M+H).

reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid | N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 76.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.66 mmol, 518 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | aniline | 0.33 mmol, 31 mg | NC1=CC=CC=C1 | C6H7N
reactant | trisamine | 1.5 mmol, 400 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid phenylamide | 21 mg, 23% | C1(=CC=CC=C1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C16H12N4O
